US07923456B2
Step 3: 8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid
To a solution of 8-fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester (500 mg, 1.17 mmol) in IMS (10 mL) was added sodium hydroxide (1.75 mL, 1M aqueous solution, 1.75 mmol), the reaction mixture heated at 65° C. for 45 min. The reaction mixture was concentrated in vacuo and the residue taken up in water. 1N HCl was added to adjust to pH 1. The precipitate formed was filtered off and dried in vacuo to give the title compound (435 mg, 90%). LCMS (method B): RT=3.47 min, [M+H]+=416.

reactant | 8-fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 1.17 mmol, 500 mg | COC(=O)C=1C=C(C=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)F | C15H10F2IN3O2
reactant | sodium hydroxide | 1.75 mmol, 1M, 1.75 mL | [OH-].[Na+]
product | 8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 435 mg, 90% | FC=1C=2N(C(=C(C1)C(=O)O)NC1=C(C=C(C=C1)I)F)C=NC2 | C14H8F2IN3O2
